US04864022
(4-3) 6-Ethoxyimidazo[1,2-b]pyridazine
Sodium metal (0.55 g) is dissolved in 30 ml of ethanol and, to the solution, is added 3 g of 6-chloroimidazo[1,2-b]pyridazine and the mixture is heated under reflux for 3 hours. The solvent is then evaporated off under reduced pressure and the residue is dissolved in water and the mixture is extracted with methylene chloride. The extracts are combined, washed with saturated solution of sodium chloride and dried over MgSO4. The solvent is then evaporated to give 3.3 g of the title compound as colorless crystals.

reactant | Sodium | 0.55 g | [Na] | Na
reactant | 6-chloroimidazo[1,2-b]pyridazine | 3 g | ClC=1C=CC=2N(N1)C=CN2 | C6H4ClN3
reactant | ethanol | 30 ml | C(C)O | C2H6O
product | 6-Ethoxyimidazo[1,2-b]pyridazine | 3.3 g | C(C)OC=1C=CC=2N(N1)C=CN2 | C8H9N3O
